US08133995B2
Step 4: Preparation of Ethyl 5-(aminocarbonyl)-4-(3-fluoro-4-nitrophenyl)-1H-pyrrole-3-carboxylate
A 50 mL round bottomed flask was charged with of ethyl 3-(dimethylamino)-2-(3-fluoro-4-nitrobenzoyl)acrylate (51.74 g, 166.75 mmol) and 2-aminomalonamide (23.4 mg, 200 mmol) and AcOH (1 L). The reaction mixture was heated to 80° C. over night. The starting material appeared consumed by TLC. The AcOH was removed under reduced pressure and TFA (300 mL) was added. The mixture was heated over night at 60° C. The reaction was cooled to room temperature and the TFA was removed under reduced pressure. The orange oil was treated with saturated aqueous NaHCO3 (1 L), then solid NaHCO3 was added until the solution was neutral. The solids were filtered and placed in a 1 L erlenmeyer flask. The solids were washed with H2O (3×1 L) and the water was decanted off through the filter. On the last washing the solids were poured onto the filter and allowed to air dry. The solids were once again removed from the filter and washed with Et2O (4×500 mL). The Et2O was decanted off through the filter and on the final washing the solids were transferred to the filter. An addition portion of Et2O (200 mL) was used to wash the flask and the filter cake. The desired product was dried in a vacuum oven at 40° C. to provide a light tan solid (36.8 g, 114.5 mmol, 69% yield). 1H-NMR (DMSO-d6) δ 12.28 (br s, 1H), 8.07 (app t, J=8.4 Hz, 1H), 7.57 (s, 1H), 7.46 (dd, J=12.6, 1.6 Hz, 1H), 7.28 (dd, J=8.4, 1.6 Hz, 1H), 7.25 (br s, 1H), 6.72 (br s, 1H), 4.01 (q, J=7.2 Hz, 2H), 1.07 (t, J=7.2 Hz, 3H); LCMS*RT=4.45 min; MS {M−H]−=320.1.

reactant | ethyl 3-(dimethylamino)-2-(3-fluoro-4-nitrobenzoyl)acrylate | 166.75 mmol, 51.74 g | CN(C=C(C(=O)OCC)C(C1=CC(=C(C=C1)[N+](=O)[O-])F)=O)C | C14H15FN2O5
reactant | 2-aminomalonamide | 200 mmol, 23.4 mg | NC(C(=O)N)C(=O)N | C3H7N3O2
solvent | AcOH | 1 L | CC(=O)O | C2H4O2
product | Ethyl 5-(aminocarbonyl)-4-(3-fluoro-4-nitrophenyl)-1H-pyrrole-3-carboxylate | 114.5 mmol, 36.8 g, 69% yield | NC(=O)C1=C(C(=CN1)C(=O)OCC)C1=CC(=C(C=C1)[N+](=O)[O-])F | C14H12FN3O5
